US06350907B1
By the method of Preparation 3 a), tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)hex-5-enoate (2.085 g, 5.0 mmol) was reacted with 3-methyl-4-phenylbromobenzene (1.855 g, 7.5 mmol) under palladium catalysis, using N-ethylmorpholine as base at reflux in acetonitrile for 16.5 h. Work-up as before followed by purification by repeated flash chromatography (first column hexane:ether=4:1; second column toluene:ether=20:1) gave mainly tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate as a pale yellow gum (2.205 gm, 75%). 1H nmr suggested that two alkene isomers, the (5Z) and (4E) were also present. The mixture of alkenes was taken onto the next step (see c, below). δH (400 MHz, CDCl3) 0.95 (9H, s), 1.42 (9H, s), 2.26 (3H, s), 2.35 (1H, m), 2.45 (1H, dd, 3 and 17 Hz), 2.54 (1H, dt, J=15 and 6.5),2.69 (1H, dd, J=9 and 17 Hz), 2.77 (1H, m), 4.52 (1H, d, J=10 Hz), 4.97 (1H, d, J=12 Hz), 5.06 (1H, d, J=12 Hz), 6.16 (1H, dt, J=18 and 7 Hz), 6.42 (2H, m), 7.29 (13H, complex).

reactant | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)hex-5-enoate | 5.0 mmol, 2.085 g | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C)(C)C | C24H35NO5
reactant | 3-methyl-4-phenylbromobenzene | 7.5 mmol, 1.855 g | CC=1C=C(C=CC1C1=CC=CC=C1)Br | C13H11Br
reactant | N-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate | 2.205 gm, 75% | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)C1=CC=CC=C1)C)(C)C | C37H45NO5
